datasets/10k__Tet_Int.csv
SMILES Labelled
"C[O+:10]([H])[C:20]1([NH:21][H])[O]C([H])C(C)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C([H])C(C)[NH]2.C[O:10][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C)[O]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21]C)[O][CH](C7=CC=CC=C7)C([H])[CH](C)[O]1 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CC)CC)C)[O-:10])[H]>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CC)CC)C)[H] 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S][CH](CC)[CH](C)C(C)[S]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][H])[S][CH](CC)C(C)[CH](C)[S]1 10=20;20,21=21"
"[H][O:10]C(CC)C(C)C([H])[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7 10=20;20,21=21"
"CCC1C(C(O[C:20](N1[H])([O-:10])[Cl:21])CC)CCCCCC>>CCC1C(C(O[C:20](=[O:10])N1[H])CC)CCCCCC.[Cl-:21] 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(CC)[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C)[NH][CH]([H])C([H])[CH](CC)[NH]1 10=20;20,21=21"
"[H][NH:10]C([H])C(C)C([H])[NH][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C)C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C([H])[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21][H])[NH]C(C7=CC=CC=C7)C([H])[NH]1 10=20;20,21=21"
"[H][NH:10]C(C)C([H])C([H])[O][C:20]([O]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])C([H])[O]1)[C:20]1([NH:21][H])[O]CC 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](CC)C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C8=CC=CC=C8)[O]2.C[NH:10][H] 21=20;20,10=10"
"[H][O:10]C([H])C([H])[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[OH:21][C:20]1(OC)[OH+:10]C(C)C([H])C1C>>[OH:10]C(C)C([H])C([C:20](OC)=[OH+:21])C 21=20;20,10=10"
"[NH:10]([H])C(C)C(O)C([H])C(O)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(O)C([H])C(O)C(C)[NH+:10]1([H]) 10=20;20,21=21"
"C[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C8=CC=CC=C8)[O]CC.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C8=CC=CC=C8)[O]CC 10=20;20,21=21"
"CCN([C:20](=[O:10])OC(C(C([O-:21])[H])C)CCCCCC)CC>>CCN([C:20]1(OC(C(C([O:21]1)[H])C)CCCCCC)[O-:10])CC 21=20;20,10=10"
"C[CH:20]([NH:10]CC)[Br:21]>>C[CH:20]=[NH+:10]CC.[Br-:21] 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[NH]C(CC)C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH]C(CC)C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"CC[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][O:10][H].[H][O+:21]=[C:20]([S]CC)[S]C.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([O:21][H])([S]CC)[S]C 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C(C8=CC=CC=C8)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"CCN([C:20](=[O:10])OC1=CC=CC=C1)C1=CC=CC=C1.[O-:21]CCCCCC>>CCN([C:20]([O-:10])(OC1=CC=CC=C1)[O:21]CCCCCC)C1=CC=CC=C1 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(C)[O][C:20]([NH]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(C)[O]1)[C:20]1([NH:21]C)[NH]C 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C)C(C)[CH]([H])[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C)[CH](C)C([H])[NH]2.CC[NH:10][H] 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21][H])CC)C>>CCCCCCC1C(C(O[C:20](=[O:10])N1CCCCCC)CC)C.[O-:21][H] 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C([H])[S]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH]([H])[S]1 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C([H])[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[NH]C(C7=CC=CC=C7)C([H])[O]1 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C([H])[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH]([H])C(C)[CH]([H])[NH]1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[O][CH]([H])C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"C9=CC=CC=C9[NH:10][H].CC[NH+:21]=[C:20]([NH]C)[NH]C.[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]CC)([NH]C)[NH]C 10=20;20,21=21"
"[H][O+:10](C(CC)C([H])C([H])[O]1)[C:20]1([NH:21][H])[O]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C([H])[O][C:20]([O]CC)=[NH+:21][H] 21=20;20,10=10"
"[H][NH+:10](C(CC)C([H])C(CC)[NH]1)[C:20]1([NH:21][H])[NH][H].[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])C(CC)[NH][C:20]([NH][H])=[NH+:21][H] 21=20;20,10=10"
